US07098212B2
2-(2-Amino-4-chloro-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone
To a solution of 2-(4-chloro-2-nitro-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone (0.55 g, 1.3 mmol) in ethanol (25 mL) was added platinum dioxide on carbon (0.50 g, 5% on carbon). The reaction was subject to 35 psi hydrogen gas for 20 minutes. The reaction was then filtered through celite and the filtrate was concentrated to give the title compound (0.42 g).

reactant | 2-(4-chloro-2-nitro-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone | 1.3 mmol, 0.55 g | ClC1=CC(=C(OCC(=O)N2[C@@H](CN(CC2)CC2=CC=C(C=C2)F)C)C=C1)[N+](=O)[O-] | C20H21ClFN3O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | platinum dioxide | [Pt](=O)=O
product | 2-(2-Amino-4-chloro-phenoxy)-1-[4-(4-fluoro-benzyl)-(2R)-2-methyl-piperazin-1-yl]-ethanone | 0.42 g | NC1=C(OCC(=O)N2[C@@H](CN(CC2)CC2=CC=C(C=C2)F)C)C=CC(=C1)Cl | C20H23ClFN3O2
